US08193236B2
3-(5-Hydroxymethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
TBAF (1.0 M in THF, 1.4 ml, 1.4 mmol, 1.1 equiv) is added to a solution of 3-[5-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-pyrazolo[1,5-a]pyridin-3-yl]-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione in THF (10 ml). The reaction mixture is stirred for 1 hour at room temperature. The solvent is removed in vacuo, and the residue is purified by flash chromatography (gradient of hexane/EtOAc 100:0 to 20:80) to afford the title compound (400 mg, 84%). 1H NMR (400 MHz, d6-DMSO): δ=11.85 (br s, 1H), 10.99 (br s, 1H), 8.53 (d, J=7.8 Hz, 1H), 7.94 (d, J=2.7 Hz, 1H), 7.35-7.34 (m, 1H), 6.82-6.79 (m, 2 H), 6.51 (t, J=8.1 Hz, 1H), 6.22 (d, J=8.1 Hz, 1H), 5.38 (t, J=5.7 Hz, 1H), 4.45 (d, J=4.9 Hz, 1H), 2.45 (s, 3H), 1.79 (s, 3H). MS (ES+): 387 (M+H)+.

reactant | TBAF | 1.4 mmol, 1.0 M, 1.4 ml, 1.1 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-[5-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-pyrazolo[1,5-a]pyridin-3-yl]-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | C(C)(C)(C)[SiH2]OC(C1=CC=2N(C=C1)N=C(C2C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O)C)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H36N4O3Si
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(5-Hydroxymethyl-2-methyl-pyrazolo[1,5-a]pyridin-3-yl)-4-(7-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 400 mg, 84% | OCC1=CC=2N(C=C1)N=C(C2C=2C(NC(C2C2=CNC1=C(C=CC=C21)C)=O)=O)C | C22H18N4O3
